US04503236
3-Ethoxy-4-phenyl-4H-furo[3,2-b]indole-2-carbonitrile
Prepared by the procedure described in Example 21 from 6.5 g (0.020 mole) of 3-ethoxy-4-phenyl-4H-furo[3,2-b]indole-2-carboxamide. The crude product (5.5 g, 90% yield), after being washed with water and dried, was converted to the corresponding tetrazole without additional purification. A portion of the crude nitrile recrystallized from methanol yielded an analytically pure sample, mp 121°-122° C.

reactant | 3-ethoxy-4-phenyl-4H-furo[3,2-b]indole-2-carboxamide | 0.020 mole, 6.5 g | C(C)OC1=C(OC2=C1N(C=1C=CC=CC21)C2=CC=CC=C2)C(=O)N | C19H16N2O3
solvent | water | O | H2O
product | 3-Ethoxy-4-phenyl-4H-furo[3,2-b]indole-2-carbonitrile | 5.5 g, 90% yield | C(C)OC1=C(OC2=C1N(C=1C=CC=CC21)C2=CC=CC=C2)C#N | C19H14N2O2
